US07022702B2
Synthesis of 5-Phenylamino-[1,2,3]thiadiazole-4-carboxylic acid acetylamide
To an ice-cooled suspension of NaH (16 mg 60% in oil, 0.23 mmol) in 1.5 mL of DMF was added 0.5 mL of DMF solution of 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide (50 mg, 0.23 mmole). The mixture was stirred at room temperature for 1 h, and then cooled in an ice bath. To the cooled solution was added acetyl chloride (18.6 mg, 0.24 mmole), resulting in the. formation of a yellowish solution that was kept stirring at room temperature for 1.5 h. The reaction was then quenched with a mixture of 5 mL of saturated aqueous NH4Cl, 5 mL of saturated aqueous NaCl and 5 mL of EtOAc. The aqueous phase was extracted with EtOAc (2×6 mL). The combined organic layers were dried with Na2SO4, concentrated, and then loaded onto a preparative TLC plate, which was sequentially eluted with hexane-EtOAc (2:1) and EtOAc-acetone-H2O (4:1:0.15). The product (24 mg) was obtained as a yellowish solid. 1H NMR (ppm, in DMSO-d6): 12.84 (s, br., 1 H), 7.79 (d, 2 H), 7.64 (s, br., 1 H), 7.53 (t, 2 H), 7.40 (t, 1 H), 2.39 (s, 3 H).

reactant | NaH | 0.23 mmol, 16 mg | [H-].[Na+]
reactant | 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | 0.23 mmole, 50 mg | C1(=CC=CC=C1)NC1=C(N=NS1)C(=O)N | C9H8N4OS
reactant | acetyl chloride | 0.24 mmole, 18.6 mg | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-Phenylamino-[1,2,3]thiadiazole-4-carboxylic acid acetylamide | 24 mg | C(C)(=O)NC(=O)C=1N=NSC1NC1=CC=CC=C1 | C11H10N4O2S
